spice
* Transistors
M1 2 3 1 1 NMOS
M2 2 3 5 5 PMOS

* Resistor
RD 2 5 1k

* Voltage Sources
VDD 5 0 DC 5V
Vin 1 0 DC 0V
Vb 3 0 DC 1.2V

* Analysis
.tran 1n 100n
.end